US04604389
N-[3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl)-propyl]-N-[3-(phenylthio)-propyl]-methylamine
The title compound is prepared from N-[3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[3-(phenylthio)-propyl]-methylamine and selenium dioxide analogously to Example 55.

reactant | N-[3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-2-on-3-yl)-propyl]-N-[3-(phenylthio)-propyl]-methylamine | COC1=CC2=C(CC(N(CC2)CCCN(CCCSC2=CC=CC=C2)C)=O)C=C1OC | C25H34N2O3S
reactant | selenium dioxide | [Se](=O)=O | O2Se
product | N-[3-(7,8-dimethoxy-1,3,4,5-tetrahydro-2H-3-benzazepin-1,2-dion-3-yl)-propyl]-N-[3-(phenylthio)-propyl]-methylamine | COC1=CC2=C(C(C(N(CC2)CCCN(CCCSC2=CC=CC=C2)C)=O)=O)C=C1OC | C25H32N2O4S
